US05591751
4.1 g of potassium carbonate was added to a solution of 2.0 g of 4-carbamoylaniline in 40 ml of acetone and 40 ml of water. To the mixture was gradually added 3.2 g of 2-methylcinnamoyl chloride with ice-cooling. The resulting mixture was stirred at room temperature overnight. The reaction mixture was mixed with water. The resulting precipitate was collected by filtration, washed with water and dried to obtain 3.2 g of N-(2-methylcinnamoyl)-4-carbamoylaniline as a white powder.

reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-carbamoylaniline | 2.0 g | C(N)(=O)C1=CC=C(N)C=C1 | C7H8N2O
reactant | 2-methylcinnamoyl chloride | 3.2 g | CC1=C(C=CC(=O)Cl)C=CC=C1 | C10H9ClO
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | N-(2-methylcinnamoyl)-4-carbamoylaniline | 3.2 g | CC1=C(C=CC(=O)NC2=CC=C(C=C2)C(N)=O)C=CC=C1 | C17H16N2O2
